US07514437B2
To a solution of methyl N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate (520 mg) in methanol (5 ml) was added a solution of lithium hydroxide (91 mg) in water (3 ml). After stirring vigorously for 24 hours the solvent was removed in vacuo. The residue was diluted with water (10 ml) then neutralised with 2N hydrochloric acid. This solution was applied to an Oasis™ cartridge (2×6 g) and eluted with water (x2) and methanol (x2). The required fractions were combined and evaporated to afford N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucine (478 mg).

reactant | methyl N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate | 520 mg | O1C=CC2=C1C=CC(=C2)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)OC | C19H26N2O4
reactant | lithium hydroxide | 91 mg | [OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucine | 478 mg | O1C=CC2=C1C=CC(=C2)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)O | C18H24N2O4
